US09079880B2
Add N-(-3-dimethylaminopropyl)-N′-ethylcarbodiimide (0.10 g, 0.52 mmol), followed by hydroxybenzotriazole (0.07 g, 0.52 mmol) and N,N-diisopropylethyl amine (0.18 mL, 1.00 mmol) to a solution of trans-3-(3-carboxy-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.17 g, 0.39 mmol) in dimethylacetamide (5 mL). Stir the mixture at room temperature for 1 h then add 5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine (0.08 g, 0.50 mmol) and heat the mixture to 50° C. with stifling overnight. Cool the reaction to room temperature and dilute with water causing a solid to precipitate from solution. Collect the formed solid by filtration, wash with water and dry on the filter pad to provide 0.23 g (quant.) of trans-3-(3-cyano-phenylcarbamoyl)-4-[3-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylcarbamoyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a powder.

reactant | N-(-3-dimethylaminopropyl)-N′-ethylcarbodiimide | 0.52 mmol, 0.10 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | hydroxybenzotriazole | 0.52 mmol, 0.07 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N,N-diisopropylethyl amine | 1.00 mmol, 0.18 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-3-(3-carboxy-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.39 mmol, 0.17 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C(NC1=CC(=CC=C1)C#N)=O)C1=CC(=CC=C1)C(=O)O | C24H25N3O5
reactant | 5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine | 0.50 mmol, 0.08 g | CN1CC2=C(CC1)N=C(S2)N | C7H11N3S
solvent | dimethylacetamide | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | trans-3-(3-cyano-phenylcarbamoyl)-4-[3-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylcarbamoyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.23 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC(=CC=C1)C(NC=1SC=2CN(CCC2N1)C)=O)C(NC1=CC(=CC=C1)C#N)=O | C31H34N6O4S
